US04100170
Preparation of Adamantane-1-isopropyl ketone, VII
Adamantane-1-isopropyl alcohol (50 gm.), 20.6 ml. pyridine, 10.3 ml. trifluoroacetic acid, 387 ml. benzene, and 387 ml. dimethylsulfoxide were added to a reaction flask and 159 gm. dicyclohexylcarbodiimide was added over 5 minutes. The mixture was stirred overnight, a solution of 70 gm. oxalic acid in 650 ml. methanol added, and the reaction mixture left 1 day at room temperature. The solution was mixed with 4 liters of water, stirred several hours, filtered and the ether separated, washed, dried and concentrated. The ether residue was taken up in a small amount of ether, filtered to remove solid, concentrated and distilled to give 37 gm. b0.025 64°-73°.

reactant | Adamantane 1-isopropyl alcohol | 50 gm | C12CC3CC(CC(C1)C3)C2.C(C)(C)O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | water | 4 liters | O | H2O
solvent | methanol | CO | CH4O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Adamantane 1-isopropyl ketone | C12CC3CC(CC(C1)C3)C2.C(C)(C)C(=O)C(C)C | InChI=1S/C10H16.C7H14O/c1-7-2-9-4-8(1)5-10(3-7)6-9;1-5(2)7(8)6(3)4/h7-10H,1-6H2;5-6H,1-4H3
